US07915424B2
3-(4-Fluorophenylethynyl)-5-iodopyridine
Add a 2 M solution of isopropylmagnesium chloride in tetrahydrofuran (81 mL, 161.7 mmol) to a solution of 3-bromo-5-(4-fluorophenylethynyl)-pyridine, (prepared essentially as described in PREPARATION 24), (40.5 g, 147 mmol) in anhydrous tetrahydrofuran (400 mL) at room temperature under nitrogen. Stir for 1 h, add a solution of iodine (41 g, 161.7 mmol) in anhydrous tetrahydrofuran (250 mL) and stir for an additional 16 h. Add water (200 mL) to the reaction mixture, dilute with diethyl ether (400 mL) and separate the layers. Sequentially wash the organic layer with a 10% aqueous solution of sodium thiosulfate (150 mL), water (200 mL) and an aqueous saturated solution of sodium chloride, dry (magnesium sulfate), filter and concentrate. Purify by silica gel chromatography, eluting with 15:1 hexanes:ethyl acetate, to give the title compound as a pale yellow solid (25.4 g, 53%).

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 3-bromo-5-(4-fluorophenylethynyl)-pyridine | BrC=1C=NC=C(C1)C#CC1=CC=C(C=C1)F | C13H7BrFN
reactant | iodine | 161.7 mmol, 41 g | II | I2
reactant | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 161.7 mmol, 81 mL | O1CCCC1 | C4H8O
product | 3-(4-Fluorophenylethynyl)-5-iodopyridine | 25.4 g, 53% | FC1=CC=C(C=C1)C#CC=1C=NC=C(C1)I | C13H7FIN
